US07288543B2
6-Amino-5-bromo-nicotinonitrile
To a solution of 6-Amino-nicotinonitrile (102 mg, 0.86 mmol) in AcOH (2 mL) add a solution of Br2 1.0M in AcOH (0.86 mmol). Stir the mixture at room temperature for 2 hours. Eliminate the solvent. Purify by flash chromatography on silica gel (eluent: hexane/EtOAc 3/1) to afford the title compound (110 mg, 65%).

reactant | 6-Amino-nicotinonitrile | 0.86 mmol, 102 mg | NC1=NC=C(C#N)C=C1 | C6H5N3
reactant | Br2 | 1.0M | BrBr | Br2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | AcOH | 0.86 mmol | CC(=O)O | C2H4O2
product | 6-Amino-5-bromo-nicotinonitrile | 110 mg, 65% | NC1=NC=C(C#N)C=C1Br | C6H4BrN3
